US04683308
272.0 g of cyanuric chloride (content >99%), 1,000 ml of water and 275 ml of toluene are mixed at 5° C. The aqueous phase thereby assumes a pH value of 3.5. 188.2 g of o-chloroaniline are added in the course of 30 minutes without cooling or heating the mixture, whereupon the temperature rises to 30° C. A pH value of 7 is then established in the course of 1 hour by addition of 45% strength sodium hydroxide solution, whereupon the temperature rises up to 55° C. The mixture is then cooled to 20° C. in the course of 15 minutes. The product is filtered off, washed salt-free with water and dried at 60° C. in a waterpump vacuum. 396.5 g of 2-(2-chlorophenylamino)-4,6-dichloro-s-triazine are obtained with a melting point of 159° C. and a content of 98.9%, which corresponds to a yield of 97.5% (based on 99 % pure cyanuric chloride).

reactant | cyanuric chloride | 272.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | water | 1,000 ml | O | H2O
reactant | o-chloroaniline | 188.2 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 275 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-chlorophenylamino)-4,6-dichloro-s-triazine | 396.5 g, yield of 97.5% | ClC1=C(C=CC=C1)NC1=NC(=NC(=N1)Cl)Cl | C9H5Cl3N4
